US05866589
A mixture of methylamine hydrochloride (1.40 g) in methanol (30 ml) at 0° under nitrogen is treated with potassium hydroxide pellets (331 mg) followed by the racemic 1-benzyl-3-methyl-4-piperidone (3.00 g) and is stirred at 0° for 20 min. Then sodium cyanoborohydride (371 mg) is added, and the reaction mixture is warmed to 20°-25° and stirred at 20°-25° for 18 hrs. The mixture is then adjusted to pH 2.5 with 3M aqueous hydrochloric acid, concentrated under reduced pressure, diluted with water (40 ml), adjusted to pH 12 with potassium hydroxide pellets, saturated with sodium chloride, and extracted with methylene chloride (3×40 ml). The combined organic phase is dried over sodium sulfate and concentrated under reduced pressure to give the 1-benzyl-3-methyl-4-(methylamino)piperidine intermediate as a diastereomeric mixture.

reactant | methylamine hydrochloride | 1.40 g | Cl.CN
reactant | potassium hydroxide | [OH-].[K+]
reactant | racemic 1-benzyl-3-methyl-4-piperidone | 3.00 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | sodium cyanoborohydride | 371 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 3M | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 1-benzyl-3-methyl-4-(methylamino)piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)NC)C | C14H22N2
